US05177087
A mixture consisting of 2.38 g of 4-(4-fluorobenzoyl)pyridine and 7 ml of 50% aqueous dimethylamine solution was stirred for 24 hours at room temperature, followed by addition of 100 ml of ethyl acetate. The mixture was washed with a saturated aqueous solution of sodium hydrogen carbonate and the organic layer was dried over anhydrous sodium sulfate. The solvent was then distilled off and the residue was recrystallized from ethanol-ethyl acetate to give 1.1 g of 4-(4-dimethylaminobenzoyl)pyridine as pale yellow crystals melting at 122°-124° C.

reactant | 4-(4-fluorobenzoyl)pyridine | 2.38 g | FC1=CC=C(C(=O)C2=CC=NC=C2)C=C1 | C12H8FNO
reactant | dimethylamine | 7 ml | CNC | C2H7N
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 4-(4-dimethylaminobenzoyl)pyridine | 1.1 g | CN(C1=CC=C(C(=O)C2=CC=NC=C2)C=C1)C | C14H14N2O
